US06933311B2
N-[4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzyl]-N′-1H-indazol-4-ylurea
Methyl 4-[({[4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzyl]amino}carbonyl)amino]-1H-indazole-1-carboxylate (803 mg, 1.72 mmol) in methanol (40 mL) was treated with 1.2N NaOH in MeOH (20 mL). After stirring for 30 minutes, the mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated NaHCO3 solution. The separated aqueous phase was extracted with ethyl acetate. The organic layers were combined, washed with brine, dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (7% to 10% MeOH/CH2Cl2) to provide the title compound as a solid. The obtained solid was treated with ethanolic HCl followed by precipitation with diethyl ether to provide the hydrochloride salt. 1H NMR (300 MHz, DMSO-d6) δ 8.91 (s, 1H), 8.16 (s, 1H), 7.65 (d, 1H, J=7.5 Hz), 7.27 (d, 1H, J=8.5 Hz), 7.19 (t, 1H, J=8.1 Hz), 7.05 (d, 1H, J=8.5 Hz), 6.87 (m, 2H), 6.79 (m, 1H), 4.29 (m, 2H), 4.21 (m, 2H), 2.05-1.65 (m, 7H), 1.40 (m, 1H), 1.26 (m, 2H); MS (ESI) 410 (M+H)+; Anal. Calcd for C22H24ClN5O.1.6HCl: C, 56.43; H, 5.51; N, 14.96. Found: C, 56.30; H, 5.29; N, 14.81.

reactant | Methyl 4-[({[4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzyl]amino}carbonyl)amino]-1H-indazole-1-carboxylate | 1.72 mmol, 803 mg | C12CCCC(CC1)N2C2=CC(=C(CNC(=O)NC1=C3C=NN(C3=CC=C1)C(=O)OC)C=C2)Cl | C24H26ClN5O3
reactant | NaOH | 1.2N | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | N-[4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzyl]-N′-1H-indazol-4-ylurea | C12CCCC(CC1)N2C2=CC(=C(CNC(=O)NC1=C3C=NNC3=CC=C1)C=C2)Cl | C22H24ClN5O
